US06927221B2
3-Bromo-6-(2-hydroxyethyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-ol
A solution of 5-amino-4-bromo-3-methylpyrazole hydrobromide (13 g, 51 mmol) and α-acetyl-γ-butyrolactone (6.8 g, 53 mmol) in ethanol (65 mL) was heated under reflux for nine hours. After cooling to room temperature, the resulting crystals were collected by filtration, to give the title compound (4.6 g) as white crystals.

reactant | 5-amino-4-bromo-3-methylpyrazole hydrobromide | 51 mmol, 13 g | Br.NC1=C(C(=NN1)C)Br
reactant | α-acetyl-γ-butyrolactone | 53 mmol, 6.8 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | ethanol | 65 mL | C(C)O | C2H6O
product | 3-Bromo-6-(2-hydroxyethyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-ol | 4.6 g | BrC=1C(=NN2C1N=C(C(=C2O)CCO)C)C | C10H12BrN3O2
